US05985905
5,6-Dichloro-1H-indole-2-carboxaldehyde
ethyl 3-(5,6-dichloro-2indolyl)-2-propenoate (16.23 g, 57.1 mmol) was dissolved under nitrogen in dry THF (300 ml) cooled at -20° and 1M DIBAL in hexanes (115 ml, 115 ml) was added dropwise at -20° C. The reaction mixture was maintained at this temperature for 1 hour and then quenched with H2O. The mixture was warmed to RT, diluted with Et2O (200 ml) and filtered on a Celite pad, washing with 300 ml of Et2O. The dark-red solution was dried over MgSO4 and evaporated under vacuum to give pure title compound (13.8 g, 57.0 mmol, yield 99.8%).

reactant | ethyl 3-(5,6-dichloro-2indolyl)-2-propenoate | 57.1 mmol, 16.23 g | ClC=1C=C2C=C(NC2=CC1Cl)C=CC(=O)OCC | C13H11Cl2NO2
reactant | DIBAL | 1M | CC(C)C[AlH]CC(C)C
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | 5,6-Dichloro-1H-indole-2-carboxaldehyde | 57.0 mmol, 13.8 g, yield 99.8% | ClC=1C=C2C=C(NC2=CC1Cl)C=O | C9H5Cl2NO
